US04788210
starting from 3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole and methyl iodide there is obtained a mixture of isomeric N-methyltriazoles and therefrom there are obtained pure 5-(o-chlorophenyl)-1-methyl-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole as a resinous product, 1H-NMR(CDCl3): 3.86 (s, CH3); and pure 3-(o-chlorophenyl)-1-methyl-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 90°-92° C., 1H-NMR(CDCl3): 3.78 (s, CH3);

reactant | 3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | ClC1=C(C=CC=C1)C1=NNC(=N1)C1=C(C=CC=C1)C(F)(F)F | C15H9ClF3N3
reactant | methyl iodide | CI | CH3I
product | 5-(o-chlorophenyl)-1-methyl-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | ClC1=C(C=CC=C1)C1=NC(=NN1C)C1=C(C=CC=C1)C(F)(F)F | C16H11ClF3N3
